US04555578
(1) α-(5-mercapto-1H-tetrazol-1-yl)acetohydroxamic acid p-methoxybenzyl ester
To an ice cold solution of 5-mercapto-1H-tetrazole-1-acetic acid (4.4 g) in N,N-dimethylformamide (40 ml) is added N,N'-carbonyldiimidazole (4.86 g), and the mixture is stirred under nitrogen for 1 hour. To this solution is added a solution of p-methoxybenzyloxyamine (7.9 g) in N,N-dimethylformamide (10 ml), and the mixture is stirred under ice cooling for 45 minutes. The reaction mixture is poured onto ice water containing hydrochloric acid and extracted with ethyl acetate. The extract solution is washed with water, dried and concentrated under reduced pressure. The residue is crystallized from a mixture of acetone and ether to give the title compound (7.3 g). mp. 167°-168° C.

reactant | 5-mercapto-1H-tetrazole-1-acetic acid | 4.4 g | SC1=NN=NN1CC(=O)O | C3H4N4O2S
reactant | p-methoxybenzyloxyamine | 7.9 g | COC1=CC=C(CON)C=C1 | C8H11NO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | α-(5-mercapto-1H-tetrazol-1-yl)acetohydroxamic acid p-methoxybenzyl ester | 7.3 g | COC1=CC=C(CONC(CN2N=NN=C2S)=O)C=C1 | C11H13N5O3S
